US07700641B2
A. Synthesis of 1-(diphenylmethyl)-5-methyl-1H-indole-2,3-dione
Following the procedure as described in PREPARATION 2A, and making non-critical variations to replace isatin with 5-methylisatin, and (2-bromoethyl)cyclopropane with 1,1′-(bromomethylene)dibenzene, the title compound was obtained (74%) as a bright orange solid: 1H NMR (300 MHz, CDCl3) δ 7.42-7.26 (m, 11H), 7.09 (d, 1H), 6.95 (s, 1H), 6.37 (d, 1H), 2.24 (s, 3H).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-methylisatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | (2-bromoethyl)cyclopropane | BrCCC1CC1 | C5H9Br
reactant | 1,1′-(bromomethylene)dibenzene | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
product | 1-(diphenylmethyl)-5-methyl-1H-indole-2,3-dione | C1(=CC=CC=C1)C(N1C(C(C2=CC(=CC=C12)C)=O)=O)C1=CC=CC=C1 | C22H17NO2
